US08420632B2
1.7 ml (1.7 mmol) of an aqueous solution of sodium hydroxide having a concentration of 1M are added to a solution of 270 mg (0.5 mmol) of dimethyl 2-{[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-methyl}-2-(4-methanesulfonylpiperazin-1-yl)malonate in 7 ml of tetrahydrofuran and 2 ml of methanol. The reaction medium is stirred at 40° C. for 15 h and then brought back to pH=6 by adding an aqueous solution of hydrochloric acid having a concentration of 1M. After evaporation of the solvents under vacuum, the product precipitates. The residue obtained is taken up in 5 ml of water and stirred for 30 min until precipitation occurs. The product is filtered off, rinsed with water and then dried under vacuum. 200 mg (87%) of 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid are obtained in the form of a white solid.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | dimethyl 2-{[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-methyl}-2-(4-methanesulfonylpiperazin-1-yl)malonate | 0.5 mmol, 270 mg | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)CNCC(C(=O)OC)(C(=O)OC)N1CCN(CC1)S(=O)(=O)C | C22H31N3O9S2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
product | 3-[(4-but-2-ynyloxybenzenesulfonyl)methylamino]-2-(4-methanesulfonylpiperazin-1-yl)propanoic acid | 200 mg, 87% | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)CNCC(C(=O)O)N1CCN(CC1)S(=O)(=O)C | C19H27N3O7S2
